US06313126B1
6-Fluoro-8-nitrochroman
A mixture of nitric acid (100%, 7.8 ml, 0.16 mol) in acetic anhydride was maintained at room temperature for 0.5 hour. This mixture was added to a solution of 6-fluorochroman (11.9 g, 0.078 mol) in 40 ml acetic anhydride at 0C. The reaction mixture was stirred at room temperature for 2 hours then poured into ice-water. The mixture was extracted with methylene chloride (3×60 ml) and washed with saturated sodium carbonate (8×150 ml). The organic layer was dried over anhydrous sodium sulfate and filtered. The solvent was removed under vacuum to afford a yellow solid: mp 48-50° C.

reactant | nitric acid | 0.16 mol, 7.8 ml | [N+](=O)(O)[O-] | HNO3
reactant | 6-fluorochroman | 0.078 mol, 11.9 g | FC=1C=C2CCCOC2=CC1 | C9H9FO
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-Fluoro-8-nitrochroman | FC=1C=C2CCCOC2=C(C1)[N+](=O)[O-] | C9H8FNO3
